US05424444
Alternate Preparation of 3-Methyl-5-(1-methyl-2(S)-pyrrolidinyl)isoxazole by the Procedure of Example 23
To a stirred suspension of sodium borohydride (7.59 g, 200 mmol) in 100 mL of THF cooled to 0° C. was added a solution of 20 g (80.28 mmol) of N-Cbz-L-proline, from step 24a above, in 50 mL of ether. To this solution was added dropwise a solution of 5 mL of H2SO4 in 20 mL of ether, with stirring and while maintaining the temperature below 20° C. The reaction mixture was warmed to room temperature and stirred for 16 hr. The reaction was quenched by the addition of 100 mL of methanol dropwise. The solvents were removed, 30 mL of 4N NaOH was added, and the mixture was extracted with ethyl acetate. The organic extract was dried over Na2SO4 and concentrated to afford the title product, 16.61 g (88 % yield).

reactant | sodium borohydride | 200 mmol, 7.59 g | [BH4-].[Na+]
reactant | N-Cbz-L-proline | 80.28 mmol, 20 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 3-Methyl-5-(1-methyl-2(S)-pyrrolidinyl)isoxazole | 88 % yield | CC1=NOC(=C1)[C@H]1N(CCC1)C | C9H14N2O
